US08981101B2
3.1 A suspension of 6.24 g (30.0 mmol) of 5-bromoisoquinoline and 17.5 g (30 mmol) of magnesium monoperoxyphthalate hexahydrate (85%) in 120 ml of 2-propanol is stirred at room temperature for 50 hours. The reaction mixture is evaporated in vacuo, and saturated sodium chloride solution, saturated sodium hydrogencarbonate solution and dichloromethane are added. The organic phase is separated off and washed a number of times with saturated sodium chloride solution. The organic phase is dried over sodium sulfate and evaporated. The residue is stirred with tert-butyl methyl ether, giving 5-bromoisoquinoline 2-oxide as colourless crystals; HPLC/MS: 1.51 min, [M+H] 224/226.

reactant | 5-bromoisoquinoline | 30.0 mmol, 6.24 g | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | magnesium monoperoxyphthalate hexahydrate | 30 mmol, 17.5 g | O.O.O.O.O.O.C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-].[Mg+2]
solvent | 2-propanol | 120 ml | CC(C)O | C3H8O
product | 5-bromoisoquinoline 2-oxide | BrC1=C2C=C[N+](=CC2=CC=C1)[O-] | C9H6BrNO
